US06087380
1-Methyl-2-[N-(4-amidinophenyl)aminomethyl]-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 2 from 1-methyl-2-[N-(4-amidinophenyl)aminomethyl]-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 85% of theory, C24H24N6O3S (476.56) Rf value: 0.36 (Reversed Phase silica gel RP-8; methanol+5% saline solution) ##EQU117##

reactant | 1-methyl-2-[N-(4-amidinophenyl)aminomethyl]-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N=C(N2C)CNC2=CC=C(C=C2)C(N)=N)S1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-Methyl-2-[N-(4-amidinophenyl)aminomethyl]-thieno[2.3-d]imidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 85% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N=C(N2C)CNC2=CC=C(C=C2)C(N)=N)S1)CCC(=O)O | InChI=1S/C24H24N6O3S.ClH/c1-29-18-13-19(24(33)30(12-11-21(31)32)17-5-3-2-4-6-17)34-23(18)28-20(29)14-27-16-9-7-15(8-10-16)22(25)26;/h2-10,13,27H,11-12,14H2,1H3,(H3,25,26)(H,31,32);1H
